US07312330B2
B. N-(4-tert-Butylphenyl)-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidin-4-amine
1-Chloroethyl chloroformate (732 mg, 5.12 mmol) was added dropwise to a mixture of N-(4-tert-butylphenyl)-7-benzyl-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidin-4-amine (1.07 g, 2.56 mmol) and diisopropylethyl amine (660 mg, 5.12 mmol) in 1,2-dichloroethane (10 mL, anhydrous) at 0° C. After addition, the reaction mixture was stirred at room temperature for 1 hr. Solvent was removed in vacuo, residue was dissolved in methanol (10 mL) and was stirred at room temperature overnight. Solvent was removed in vacuo, residue was dissolved in ethyl acetate and was washed with saturated aqueous sodium bicarbonate, brine and dried over sodium sulfate. Solvent was removed in vacuo and residue was triturated by diethyl ether to yield the product as a light brown solid (303 mg, 36%).

reactant | 1-Chloroethyl chloroformate | 5.12 mmol, 732 mg | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | N-(4-tert-butylphenyl)-7-benzyl-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidin-4-amine | 2.56 mmol, 1.07 g | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=C(N1)SC)CN(CC2)CC2=CC=CC=C2 | C25H30N4S
reactant | diisopropylethyl amine | 5.12 mmol, 660 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | N-(4-tert-Butylphenyl)-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidin-4-amine | 303 mg, 36% | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=C(N1)SC)CNCC2 | C18H24N4S
